US08431563B2
To a 50-mL round-bottomed flask was added 3-((6-methoxy-2-pyridinyl)methyl)-2,5-piperazinedione (423 mg, 1.80 mmol), borane methyl sulfide, complex (0.68 mL, 7.19 mmol, Aldrich, St. Louis, Mo.), and THF (6 mL). The reaction mixture was stirred at 70° C. for 2 h and allowed to cool to room temperature. The reaction mixture was diluted with MeOH (1 mL), followed by 1N NaOH (12 mL), and extracted with DCM (2×50 mL). The organic extracts were washed with saturated NaCl (10 mL) and dried over Na2SO4. The solution was filtered and concentrated in vacuo to give the crude 2-((6-methoxy-2-pyridinyl)methyl)piperazine as light-yellow viscous oil, which was used without purification.

reactant | 3-((6-methoxy-2-pyridinyl)methyl)-2,5-piperazinedione | 1.80 mmol, 423 mg | COC1=CC=CC(=N1)CC1C(NCC(N1)=O)=O | C11H13N3O3
reactant | borane methyl sulfide | CSC.B
reactant | THF | 6 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1N, 12 mL | [OH-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 2-((6-methoxy-2-pyridinyl)methyl)piperazine | COC1=CC=CC(=N1)CC1NCCNC1 | C11H17N3O
